US06342598B1
C) 10-[2-[Bis[2-[(1-oxohexadecyl)oxy]ethyl]amino]-2-oxoethyl]-1,4,7,10-tetraazacyclododecane-1,4,7-triacetic acid
10% Pd/C (1.6 g) was added to a solution of 10-[2-[bis[2-[(1-oxohexadecyl)oxy]ethyl]amino]-2-oxoethyl]-1,4,7,10-tetraazacyclo-dodecane-1,4,7-triacetic acid tris(phenylmethyl)ester (16 g; 12.9 mmol) in EtOH (500 mL) and the suspension was stirred for 12 h under hydrogen atmosphere at room temperature. After filtration through a Millipore® filter FT 0.45 μm the solution was evaporated under reduced pressure to give the desired compound. Yield 93%. HPLC: 98% (area %). The 13C-NMR, MS and IR spectra were consistent with the structure.

reactant | 10-[2-[bis[2-[(1-oxohexadecyl)oxy]ethyl]amino]-2-oxoethyl]-1,4,7,10-tetraazacyclo-dodecane-1,4,7-triacetic acid tris(phenylmethyl)ester | 12.9 mmol, 16 g | C1(=CC=CC=C1)COC(CN1CCN(CCN(CCN(CC1)CC(=O)N(CCOC(CCCCCCCCCCCCCCC)=O)CCOC(CCCCCCCCCCCCCCC)=O)CC(=O)OCC1=CC=CC=C1)CC(=O)OCC1=CC=CC=C1)=O | C73H115N5O11
solvent | EtOH | 500 mL | CCO | C2H6O
catalyst | Pd/C | 1.6 g | [Pd] | Pd
product | 10-[2-[Bis[2-[(1-oxohexadecyl)oxy]ethyl]amino]-2-oxoethyl]-1,4,7,10-tetraazacyclododecane-1,4,7-triacetic acid | Yield 93% | O=C(CCCCCCCCCCCCCCC)OCCN(C(CN1CCN(CCN(CCN(CC1)CC(=O)O)CC(=O)O)CC(=O)O)=O)CCOC(CCCCCCCCCCCCCCC)=O | C52H97N5O11
